US07655679B2
610 mg 2-(4-Cyano-phenyl)-N-[4-(4-methoxy-phenyl)-thiazol-2-yl]-acetamide were suspended in 20 ml tetrahydrofuran. 2.1 ml of a one molar solution of borane tetrahydrofuran complex were added at room temperature. The reaction mixture was stirred at room temperature for two hours and then at 50° C. for two hours. The cooled reaction mixture was poured on 50 ml water and extracted five times with portions of 50 ml ethyl acetate. The combined organic layers were dried over MgSO4. Then the solvents were removed in vacuo to obtain 600 mg 4-{2-[4-(4-Methoxy-phenyl)-thiazol-2-ylamino]-ethyl}-benzonitrile.

reactant | 2-(4-Cyano-phenyl)-N-[4-(4-methoxy-phenyl)-thiazol-2-yl]-acetamide | 610 mg | C(#N)C1=CC=C(C=C1)CC(=O)NC=1SC=C(N1)C1=CC=C(C=C1)OC | C19H15N3O2S
reactant | water | 50 ml | O | H2O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | 4-{2-[4-(4-Methoxy-phenyl)-thiazol-2-ylamino]-ethyl}-benzonitrile | 600 mg | COC1=CC=C(C=C1)C=1N=C(SC1)NCCC1=CC=C(C#N)C=C1 | C19H17N3OS
